US06211234B1
A solution of methyl 2-benzyloxy-4-(4-chlorobenzyloxy)benzoate (1.88 g) in dioxan (37 mL) and 1M NaOH (12.5 mL) is refluxed for 4 hours. The solution is evaporated, the residue diluted with water, and brought to pH 1 with 2M HCl. The precipitate is extracted with ethyl acetate, washed with water, dried and evaporated. The residue is recrystallized from ethyl acetate to yield 2-benzyloxy-4-(4-chlorobenzyloxy)benzoic acid (0.8 g, 44%) as colourless crystals, m.p. 150-152° C. 1H NMR (DMSO) 5.15 (2H,s), 5.2(2H,s), 6.7(1H,d), 6.8(1H,s), 7.3-7.5(9H,m), 7.7(1H,d).

reactant | methyl 2-benzyloxy-4-(4-chlorobenzyloxy)benzoate | 1.88 g | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC(=C1)OCC1=CC=C(C=C1)Cl | C22H19ClO4
solvent | dioxan | 37 mL | O1CCOCC1 | C4H8O2
solvent | NaOH | 1M, 12.5 mL | [OH-].[Na+]
product | 2-benzyloxy-4-(4-chlorobenzyloxy)benzoic acid | 0.8 g, 44% | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=CC(=C1)OCC1=CC=C(C=C1)Cl | C21H17ClO4
